US08252797B2
4-Methanesulfonylmethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of 4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.5 g, 1.93 mmol) and TEA (0.33 gm, 2.89 mmol) in DCM (20 ml), methane sulphonyl chloride (0.38 g, 3.86 mmol) was added at 0° C. The reaction mixture was stirred at room temperature for 4 h. Aqueous NaHCO3 solution was added to it and extracted with DCM. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under vacuum to offer 4-methanesulfonylmethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester as a yellow solid (0.45 g, 69%). 1HNMR (400 MHz, CDCl3): δ 1.45-1.50 (Two s, 9H); 1.79-1.85 (m, 1H); 2.42-2.81 (m, 2H); 3.08 (s, 3H); 3.21-3.38 (m, 1H); 3.77 (s, 3H); 4.09-4.4 (m, 3H).

reactant | 4-hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1.93 mmol, 0.5 g | COC(=O)C1N(CC(C1)CO)C(=O)OC(C)(C)C | C12H21NO5
reactant | methane sulphonyl chloride | 3.86 mmol, 0.38 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Methanesulfonylmethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)CS(=O)(=O)C)C(=O)OC(C)(C)C | C13H23NO6S
